US05019583
A solution of 1-methoxycarbonyl-3-methyl-4-(2-fluorophenyl-amino)-piperidine (12.95 g, 48.6 mmol), prepared according to the procedure of W. F. M. Van Berer et al., J. Med. Chem. 1974, 17, 1047 and T. R. Burke, Jr. et al., J. Med. Chem. 1986, 29, 1087, except that 2-fluoroaniline was substituted for aniline, and propionic anhydride (12.5 ml, 7.2 mmol) is refluxed for fifteen hours. The cooled solution is diluted with ethyl acetate and washed with 2N sodium hydroxide (2×), saturated sodium bicarbonate (5×), 1M phosphoric acid (1×) and brine (1×). The organics are dried over sodium sulfate and then concentrated. The residue is dissolved in ether and hexanes and cooled to ×10° C. for fifteen hours. The solid that precipitated is collected and recrystallized from ether and hexanes to give cis-1-methoxycarbonyl-3-methyl-4-[(1-oxopropyl)-2-fluorophenylamino]piperidine as a solid: 3.2 g; 20%; m.p. 128°-130° C. The mother liquors are combined and concentrated to give a mixture of cis and trans isomers along with some other impurities.

reactant | 1-methoxycarbonyl-3-methyl-4-(2-fluorophenyl-amino)-piperidine | 48.6 mmol, 12.95 g | COC(=O)N1CC(C(CC1)NC1=C(C=CC=C1)F)C | C14H19FN2O2
reactant | 2-fluoroaniline | FC1=C(N)C=CC=C1 | C6H6FN
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | propionic anhydride | 7.2 mmol, 12.5 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | cis-1-methoxycarbonyl-3-methyl-4-[(1-oxopropyl)-2-fluorophenylamino]piperidine | COC(=O)N1C[C@H]([C@H](CC1)N(C1=C(C=CC=C1)F)C(CC)=O)C | C17H23FN2O3
